US04152433
To a suspension of 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid hydrochloride (syn isomer), which can be represented as 2-methyl-7-[2-methoxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid hydrochloride (syn isomer), (7.7 g.) in water (77 ml.) was added a saturated aqueous sodium bicarbonate solution (44 ml.). Thus obtained solution was adjusted to pH 3 with 1N hydrochloric acid and then allowed to stand for 1 hour at cold place. The precipitated crystals were collected by filtration, washed with water and then dried to give white powder of 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), which can be represented as 2-methyl-7-[2-methoxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer) (6.67 g.), mp 196° to 240° C. (dec.).

reactant | 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid hydrochloride | Cl.CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)N)=NOC)=O)=O
reactant | 2-methyl-7-[2-methoxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid hydrochloride | Cl.CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2NC(SC2)=N)=NOC)=O)=O
reactant | sodium bicarbonate | 44 ml | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 77 ml | O | H2O
product | 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)N)=NOC)=O)=O | C14H15N5O5S2
